US07074801B1
3-(4-Cyanophenyl)-1-trityl-1H-4-pyrazolylboronic acid
17.2 mL of 0.75 M isopropyl magnesium bromide was added dropwise at −40° C. into a solution of 6 g 4-(4-iodo-1-trityl-1H-3-pyrazolyl)benzonitrile in tetrahydrofuran, and the mixture was stirred for 30 minutes. Subsequently, 3.3 mL triisopropyl borate was added dropwise thereto at −40° C. ad stirred at −10° C. for 2 hours. The temperature of the reaction mixture was raised to room temperature, 20 mL saturated ammonium chloride solution was added thereto, and the mixture was stirred for 30 minutes. After extraction with ethyl acetate, the organic layer was washed with water and brine and dried over magnesium sulfate, and the solvent was removed. By recrystallization from toluene/hexane (2:1), 3.45 g of the title compound was obtained as colorless crystals.

reactant | isopropyl magnesium bromide | 0.75 M, 17.2 mL | C(C)(C)[Mg]Br
reactant | 4-(4-iodo-1-trityl-1H-3-pyrazolyl)benzonitrile | 6 g | IC=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C29H20IN3
reactant | triisopropyl borate | 3.3 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-Cyanophenyl)-1-trityl-1H-4-pyrazolylboronic acid | 3.45 g | C(#N)C1=CC=C(C=C1)C1=NN(C=C1B(O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H22BN3O2
